US09303033B2
Synthesis tert-butyl 4-(5-(3-chlorophenylamino)-3-((2,5-dioxoimidazolidin-4-ylidene)methyl)pyrazolo[1,5-a]pyrimidin-7-ylamino)piperidine-1-carboxylate
To the reaction flask, tert-butyl 4-(5-(3-chlorophenylamino)-3-formylpyrazolo[1,5-a]pyrimidin-7-ylamino)piperidine-1-carboxylate (811 mg, 1.7 mmol) was added to ethanol (6.3 mL) along with hydantoin (172 mg, 1.7 mmol) and piperidine (170 μL, 1.7 mmol). The reaction was heated at 80° C. for 12 hours then cooled to room temperature and diluted with water. The solid was collected by filtration, washed with water and cold ethanol. The material was dried under vacuum overnight. The product, tert-butyl 4-(5-(3-chlorophenylamino)-3-((2,5-dioxoimidazolidin-4-ylidene)methyl)pyrazolo[1,5-a]pyrimidin-7-ylamino)piperidine-1-carboxylate, was recovered as a red solid in 67% yield after further purification by recrystallization from ethyl acetate/hexanes. LCMS (M+1=553)

reactant | tert-butyl 4-(5-(3-chlorophenylamino)-3-formylpyrazolo[1,5-a]pyrimidin-7-ylamino)piperidine-1-carboxylate | 1.7 mmol, 811 mg | ClC=1C=C(C=CC1)NC1=NC=2N(C(=C1)NC1CCN(CC1)C(=O)OC(C)(C)C)N=CC2C=O | C23H27ClN6O3
reactant | ethanol | 6.3 mL | C(C)O | C2H6O
reactant | hydantoin | 1.7 mmol, 172 mg | N1C(=O)NC(=O)C1 | C3H4N2O2
reactant | piperidine | 1.7 mmol, 170 μL | N1CCCCC1 | C5H11N
solvent | water | O | H2O
product | tert-butyl 4-(5-(3-chlorophenylamino)-3-((2,5-dioxoimidazolidin-4-ylidene)methyl)pyrazolo[1,5-a]pyrimidin-7-ylamino)piperidine-1-carboxylate | 67% yield | ClC=1C=C(C=CC1)NC1=NC=2N(C(=C1)NC1CCN(CC1)C(=O)OC(C)(C)C)N=CC2C=C2NC(NC2=O)=O | C26H29ClN8O4
